US08748613B2
Preparation of (R)-quinuclidin-3-yl 2-(2-oxopyrrolidin-1-yl)-2-phenylacetate (C79)
A mixture of 2-(2-oxopyrrolidin-1-yl)-2-phenylacetic acid (345 mg, 1.57 mmol), DCC (649 mg, 3.15 mmol), HOBT (425 mg, 3.15 mmol) and (R)-quinuclidin-3-ol (400 mg, 3.15 mmol) in dry THF (15.7 ml) was stirred at room temperature for 24 hours. The yellow suspension was filtered washing the white solid with THF. The yellow solution was evaporated and the crude was purified by flash chromatography (DCM/MeOH=96/4+0.4% NH4OH) to collect the title compound (482 mg, 93% yield) as a pale yellow oil.

reactant | 2-(2-oxopyrrolidin-1-yl)-2-phenylacetic acid | 1.57 mmol, 345 mg | O=C1N(CCC1)C(C(=O)O)C1=CC=CC=C1 | C12H13NO3
reactant | DCC | 3.15 mmol, 649 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 3.15 mmol, 425 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 3.15 mmol, 400 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 15.7 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(2-oxopyrrolidin-1-yl)-2-phenylacetate | 482 mg, 93% yield | O=C1N(CCC1)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C19H24N2O3
